US04097504
Step D: Preparation of Ethyl 8-Chlorocarbonyl-12-acetoxyheptadecanoate
A solution of ethyl 8-carboxy-12-acetoxyheptadecanoate (12.0 g., 0.03 mole) and thionyl chloride (7.2 g., 0.06 mole) in benzene (50 ml.) is refluxed for 2.5 hours. Volatile materials are removed by using a rotary evaporator in vacuo. The residual product, ethyl 8-chlorocarbonyl-12-acetoxyheptadecanoate, is a viscous liquid weighing 12.5 g. (100%), ir (neat) 7990 cm-1 (acid chloride C=O), 1730 cm-1 (ester C=O). This material is used directly in the next step.

reactant | ethyl 8-carboxy-12-acetoxyheptadecanoate | 0.03 mole, 12.0 g | C(=O)(O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H40O6
reactant | thionyl chloride | 0.06 mole, 7.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 8-Chlorocarbonyl-12-acetoxyheptadecanoate | ClC(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H39ClO5
